US07754742B2
3-Methyl-3H-imidazole-4-carboxylic acid [3-(4-acetyl-3-hydroxy-2-trifluoromethyl-phenoxymethyl)-benzyl]-methyl-amide hydrochloride
Stir 1-[2-hydroxy-4-(3-methylaminomethyl-benzyloxy)-3-trifluoromethyl-phenyl]-ethanone hydrochloride (200 mg, 0.51 mmol), 3-methyl-3H-imidazole-4-carboxylic acid (96 mg, 0.76 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (173 mg, 0.9 mmol), 1-hydroxybenzotriazole monohydrate (123 mg, 0.9 mmol) and triethylamine (350 uL, 2.5 mmol) in tetrahydrofuran (15 mL). After 16 hrs, dilute the reaction mixture with ethyl acetate and wash with aqueous sodium carbonate solution. Dry the organic portion over sodium sulfate. Filter and concentrate. Chromatograph the crude material on silica gel eluting with 4% methanol/dichloromethane to provide the coupling product: the 3-methyl-3H-imidazole-4-carboxylic acid [3-(4-acetyl-3-hydroxy-2-trifluoromethyl-phenoxymethyl)-benzyl]-methyl-amide. Dissolve it in methanol, add 5N hydrogen chloride. Concentrate to a minimal volume. Add ethyl acetate to precipitate a white solid. Collect the solid, wash it with ethyl acetate and vacuum-dry to provide the title compound (186 mg). MS (m/z): 462.2 (M+1, free base).

reactant | 1-[2-hydroxy-4-(3-methylaminomethyl-benzyloxy)-3-trifluoromethyl-phenyl]-ethanone hydrochloride | 0.51 mmol, 200 mg | Cl.OC1=C(C=CC(=C1C(F)(F)F)OCC1=CC(=CC=C1)CNC)C(C)=O
reactant | 3-methyl-3H-imidazole-4-carboxylic acid | 0.76 mmol, 96 mg | CN1C=NC=C1C(=O)O | C5H6N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.9 mmol, 173 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.9 mmol, 123 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 2.5 mmol, 350 uL | C(C)N(CC)CC | C6H15N
reactant | 3-methyl-3H-imidazole-4-carboxylic acid [3-(4-acetyl-3-hydroxy-2-trifluoromethyl-phenoxymethyl)-benzyl]-methyl-amide | C(C)(=O)C1=C(C(=C(OCC=2C=C(CN(C(=O)C=3N(C=NC3)C)C)C=CC2)C=C1)C(F)(F)F)O | C23H22F3N3O4
reactant | hydrogen chloride | 5N | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 3-Methyl-3H-imidazole-4-carboxylic acid [3-(4-acetyl-3-hydroxy-2-trifluoromethyl-phenoxymethyl)-benzyl]-methyl-amide hydrochloride | 186 mg | Cl.C(C)(=O)C1=C(C(=C(OCC=2C=C(CN(C(=O)C=3N(C=NC3)C)C)C=CC2)C=C1)C(F)(F)F)O | InChI=1S/C23H22F3N3O4.ClH/c1-14(30)17-7-8-19(20(21(17)31)23(24,25)26)33-12-16-6-4-5-15(9-16)11-28(2)22(32)18-10-27-13-29(18)3;/h4-10,13,31H,11-12H2,1-3H3;1H
